US04806685
0.39 g (0,017 g.-atoms) of sodium are dissolved in 3.12 g (35 mmoles) of 2-dimethylamino-ethanol. 3.15 g (8.5 mmoles) of 1-phenyl-3,3,3-trifluoro-1-(4-fluorophenyl)-2-(4-methoxyphenyl)-propene are added to the solution, and the mixture is heated at 150°-155° C. for one hour. The reaction mixture is cooled, diluted with 200 ml of ether, washed with water until neutral, dried and evaporated. The residue is dissolved in 30 ml of hexane, the solution is filtered, and the filtrate is evaporated. 3.39 g (90%) of 1-[4-(2-dimethylamino-ethoxy)-phenyl]-1-phenyl-3,3,3-trifluoro-2-(4-methoxyphenyl)-propene are obtained as a resinous substance; the product is a 3:4 mixture of the (Z) and (E) isomers.

reactant | sodium | 0.39 g | [Na] | Na
reactant | 2-dimethylamino-ethanol | 35 mmoles, 3.12 g | CN(CCO)C | C4H11NO
reactant | 1-phenyl-3,3,3-trifluoro-1-(4-fluorophenyl)-2-(4-methoxyphenyl)-propene | 8.5 mmoles, 3.15 g | C1(=CC=CC=C1)C(=C(C(F)(F)F)C1=CC=C(C=C1)OC)C1=CC=C(C=C1)F | C22H16F4O
solvent | ether | 200 ml | CCOCC | C4H10O
product | 1-[4-(2-dimethylamino-ethoxy)-phenyl]-1-phenyl-3,3,3-trifluoro-2-(4-methoxyphenyl)-propene | 3.39 g, 90% | CN(CCOC1=CC=C(C=C1)C(=C(C(F)(F)F)C1=CC=C(C=C1)OC)C1=CC=CC=C1)C | C26H26F3NO2
